US05342944
2-Butyl-6-iodo-4-(3H)-quinazolinone
To a mixture of 1500 g of N-valeryl-5-iodoanthranilic acid in 14.5 L of N,N-dimethylformamide is added under nitrogen, 660 mL of triethylamine. The resulting solution is cooled to 0° to 5° C. and 432 mL of ethyl chloroformate added over 10 minutes at a rate to maintain the temperature below 10° C. The reaction mixture is heated to 35° to 50° C. for 2 hours until the evolution of carbon dioxide ceases. Analysis of a small aliquot of the reaction mixture by GC/MS indicates 93.7% (area %) conversion. The reaction mixture is cooled to 10°-15° C. and 5.0 L of concentrated ammonium hydroxide added over 10 minutes. The resulting slurry is then heated at 60°-70° C. for 14 hours. To the reaction mixture is added 10 L of water and the resulting slurry cooled to ambient temperature and filtered. The recovered solid is washed with 3 L of a 1:1 water-N,N-dimethylformamide solution followed by two 3 L water washes. The solid is dried at 50° C. to give 803 g (56.7%) of the desired product. The purity is 100% as analyzed by GC/MS.

reactant | N-valeryl-5-iodoanthranilic acid | 1500 g | C(CCCC)(=O)NC=1C(C(=O)O)=CC(=CC1)I | C12H14INO3
reactant | ethyl chloroformate | 432 mL | ClC(=O)OCC | C3H5ClO2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | ammonium hydroxide | 5.0 L | [OH-].[NH4+]
solvent | N,N-dimethylformamide | 14.5 L | CN(C=O)C | C3H7NO
solvent | water | 10 L | O | H2O
solvent | triethylamine | 660 mL | C(C)N(CC)CC | C6H15N
product | 2-Butyl-6-iodo-4-(3H)-quinazolinone | 803 g, 56.7% | C(CCC)C1=NC2=CC=C(C=C2C(N1)=O)I | C12H13IN2O
